data/mechanisms/records/IMS4-EQ4.46.json
{"mechanism_id": "IMS4-EQ4.46", "species": [{"species_id": "propyl_acetate_molecular_ion", "mapped_smiles": "[CH2:1]([1H:9])[CH:2]([1H:8])[CH2:3][O:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_radical_oxocarbenium", "mapped_smiles": "[CH2:1]([1H:9])[CH:2][CH2:3][O:4][C:5](=[O+:6][1H:8])[CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_radical_neutral", "mapped_smiles": "[CH2:1][CH:2]=[CH2:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_acetic_acid", "mapped_smiles": "[O:4]([1H:9])[C:5](=[O+:6][1H:8])[CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propyl_acetate_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_radical_oxocarbenium"]}, {"state_id": "state_products", "species_ids": ["allyl_radical_neutral", "protonated_acetic_acid"]}], "steps": [{"step_id": "step_rH_first", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_second", "from_state": "state_distonic", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 9]}, "target": {"type": "bond", "atom_maps": [4, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 9]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_first", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_first", "support_type": "textbook_proposed", "locator": {"page": 82, "equation": "4.46", "figure": null, "panel": "first H-transfer (shown in eq 4.45, feeds eq 4.46 via the resonance equilibrium)", "section": "4 / Basic Mechanisms of Ion Fragmentation"}, "confidence": 0.85, "curator_note": "First (gamma) hydrogen rearrangement producing the distonic radical-cation intermediate, identical to the rH step of eq 4.45: gamma H (H8, on C2) transfers to the carbonyl oxygen O6, radical to C2, carbonyl becomes protonated-carbonyl oxocarbenium. This first transfer is drawn in the eq-4.45 panel (3 arcs, fully depicted radical-site HAT); moves <1,2,3> encode it. Eq 4.46 itself begins from the resulting distonic ion, drawn in its left panel as the charge-migrated resonance form (charge on the ester O, radical on gamma C, carbonyl drawn as a neutral =O-H); the vertical equilibrium arrow on the page marks that resonance. Within eq 4.46's own figure no arcs are drawn for this first transfer."}, {"evidence_id": "evidence_step_rH_second", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_second", "support_type": "textbook_proposed", "locator": {"page": 82, "equation": "4.46", "figure": null, "panel": "left distonic ion -> rH -> products", "section": "4 / Basic Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Second (delta) hydrogen rearrangement with fragmentation (McLafferty +1 / double H transfer): the delta H (H9, on C1) is delivered to the ester oxygen O4 while the beta C3-O4 bond cleaves, expelling a neutral allyl radical (CH2=CH-CH2., odd electron on Cdelta=C1) and leaving the even-electron protonated carboxylic acid [R'C(OH)2]+ (both oxygens protonated, oxocarbenium on O6). Book draws 2 arcs on the charge-migrated resonance form (eq 4.46, left panel): arc A (delta C-H -> ester O) corresponds to move <3>, arc B (beta C-O bond -> gamma radical carbon) corresponds to move <2>. Moves <1,4,5> are implicit homolysis/pi-forming hooks required for electron balance (not drawn on the page): <1> the gamma radical initiating the C2=C3 pi bond, <4> the delta C1-H9 homolysis leaving the radical on Cdelta, <5> completion of the O4-H9 bond from the second electron of the cleaving C3-O4 bond."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.0675, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_protonated_acid", "species_id": "protonated_acetic_acid", "step_id": "step_rH_second", "observed_mz": 61.0284, "relative_intensity": null, "hydrogen_shift": 2, "isotope_offset": 0, "status": "inferred", "confidence": 0.55}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
